US06455528B1
(2) N-(4-(1-Hydroxyethyl)phenylmethyl)acetamide
To a suspension of aluminum lithium hydride (5.31 g) in tetrahydrofuran (500 ml) was added dropwise a solution of (4-azidomethylphenyl) methyl ketone (8.18 g) in tetrahydrofuran (100 ml) at below 5° C. over 30 min. The mixture was stirred at 30° C. for 2 hr. A saturated aqueous sodium sulfate solution (30 ml) was added and the mixture was stirred for 1 hr. The insoluble matter was filtered off and the solvent was evaporated. The obtained residue was dissolved in ethyl acetate (100 ml), 2N aqueous sodium hydroxide solution (30 ml) and water (70 ml). Thereto was added dropwise acetic anhydride (4.8 ml) with vigorous agitation at 10-15° C. over 10 min. The mixture was stirred at room temperature for 1 hr. The organic layer was separated and the aqueous layer was extracted with ethyl acetate and combined with the organic layer. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (elution solvent; methanol:chloroform=3:97, later 5:95) to give the title compound (5.37 g) as a rather brown oil.

reactant | aluminum lithium hydride | 5.31 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | (4-azidomethylphenyl) methyl ketone | 8.18 g | CC(=O)C1=CC=C(C=C1)CN=[N+]=[N-] | C9H9N3O
reactant | sodium sulfate | 30 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(4-(1-Hydroxyethyl)phenylmethyl)acetamide | 5.37 g | OC(C)C1=CC=C(C=C1)CNC(C)=O | C11H15NO2
